US06900243B2
b) (3-Hydroxyheptyl)methylcarbamic acid, 1,1-dimethylethyl ester
Methyl-(3-oxopropyl)carbamic acid, 1,1-dimethylethyl ester (2.00 g, 10.7 mmol) was dissolved in tetrahydrofuran (20 ml) under nitrogen and cooled to 0° C. with stirring. To the resulting solution was added n-butylmagnesium chloride and the mixture stirred at 0° C. for a further 30 minutes and then allowed to warm to room temperature with stirring over 20 h. The mixture was then poured into saturated ammonium chloride solution and then extracted with diethyl ether three times. The combined organic fractions were then washed with brine and dried over magnesium sulfate. The solvent was evaporated and the residue eluted down a flash chromatography column using 40% diethyl ether/isohexane as eluent to give 1.70 g (65%) of the title compound as an oil.

reactant | Methyl-(3-oxopropyl)carbamic acid, 1,1-dimethylethyl ester | 10.7 mmol, 2.00 g | CN(C(OC(C)(C)C)=O)CCC=O | C9H17NO3
reactant | n-butylmagnesium chloride | C(CCC)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (3-Hydroxyheptyl)methylcarbamic acid, 1,1-dimethylethyl ester | 1.70 g, 65% | OC(CCN(C(OC(C)(C)C)=O)C)CCCC | C13H27NO3
